US08242104B2
3-{2-[2-(2,4-Difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl}-azetidine-1-carboxylic acid tert-butyl ester (1.1 g, 2.11 mmol) was dissolved in hydrochloric acid in dioxane (10 mL, 4N) and the reaction stirred at RT for 1 h. After approximately 5 min a thick white precipitate formed. The reaction was concentrated in vacuo to yield 8-Azetidin-3-yl-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene hydrochloride as a yellow solid (1.0 g, 100%). LCMS: RT=3.00 min, M+H+=421.

reactant | 3-{2-[2-(2,4-Difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl}-azetidine-1-carboxylic acid tert-butyl ester | 2.11 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CC(C1)C1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=C(C=C2)F)F)C=C1 | C27H26F2N6O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 4N, 10 mL | O1CCOCC1 | C4H8O2
product | 8-Azetidin-3-yl-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene hydrochloride | 1.0 g, 100% | Cl.N1CC(C1)C1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=C(C=C2)F)F)C=C1 | InChI=1S/C22H18F2N6O.ClH/c23-16-2-4-19(18(24)8-16)30-22(26-12-27-30)29-11-14-5-6-31-20-7-13(15-9-25-10-15)1-3-17(20)21(14)28-29;/h1-4,7-8,11-12,15,25H,5-6,9-10H2;1H
